US05064649
(e) Diphenylmethyl 7β-Amino-3-(E-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3 -em-4-carboxylate
Diphenylmethyl 3-(E-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate (0.47 g), in dry dichloromethane (5 mls) was cooled to -20° C. under argon. This was treated with N-methylmorpholine (0.183 mls) and then a solution of phosphorous pentachloride in dichloromethane (5.13 mls, 40 mgs/ml). The solution was maintained at -20° C. for 30 mins and then methanol (5 mls) was added quickly, in one portion. The solution was allowed to warm to room temperature for a further 30 mins and water (10 mls) added. The reaction was vigorously stirred for 30 mins and then the dichloromethane removed in vacuo. The pH was adjusted to 7-8 with aqueous saturated sodium hydrogen carbonate and then extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated. `Flash` chromatography on silica gel, eluting with 80% ethyl acetate/hexane afforded the title compound as a yellow foam, (0.221 g, 58%), νmax (CH2Cl2) 3400(vw), 1760, 1720, 1625, 1490(w) and 1450(w) cm-1 ; δH (CDCl3) 1.94 (3H, s), 3.47 (2H, ABq, J18.2Hz), 3.87 (3H, s), 4.83 (1H, d, J5.1Hz), 4.98 (1H, d, J5.1Hz), 6.25 (1H, s), 7.00 (1H, s) and 7.2-7.5 (10H, m); [mass spectrum: +ve ion (3NOBA, Na+) MNa+, 527].

reactant | Diphenylmethyl 3-(E-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate | 0.47 g | COC/1=C(C(O\C1=C\C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O)C | C35H30N2O7S
reactant | N-methylmorpholine | 0.183 mls | CN1CCOCC1 | C5H11NO
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 5 mls | CO | CH4O
solvent | dichloromethane | 5 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 5.13 mls | ClCCl | CH2Cl2
solvent | water | 10 mls | O | H2O
product | Diphenylmethyl 7β-Amino-3-(E-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3 -em-4-carboxylate | 0.221 g, 58% | N[C@H]1[C@@H]2N(C(=C(CS2)/C=C/2\C(=C(C(O2)=O)C)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O6S
